US05929085
(c) 1-(2-Hydroxyethyl)-1,2,3,4-tetrahydroisoquinolin-7-amine hydrochloride
To a solution of 1-(2-hydroxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.18 g, 8.43 mmol) in ethanol (100 ml) was added 10% Pd-C (0.4 g) and the solution hydrogenated on the Parr Hydrogenator for 2 h. The reaction mixture was filtered to remove the catalyst and the filtrate reduced to about 1/3 of the volume. The solution was warmed and ether (150 ml) was added. The precipitate was collected to give the title compound as a yellow solid (1.81 g, 94%), mp. 199.5-200.5° C.

reactant | 1-(2-hydroxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 8.43 mmol, 2.18 g | Cl.OCCC1NCCC2=CC=C(C=C12)[N+](=O)[O-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.4 g | [Pd] | Pd
product | 1-(2-Hydroxyethyl)-1,2,3,4-tetrahydroisoquinolin-7-amine hydrochloride | 1.81 g, 94% | Cl.OCCC1NCCC2=CC=C(C=C12)N | InChI=1S/C11H16N2O.ClH/c12-9-2-1-8-3-5-13-11(4-6-14)10(8)7-9;/h1-2,7,11,13-14H,3-6,12H2;1H
